US04032652
Similarly, equimolar amounts of p-methoxyaniline and 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one are refluxed in methanol to give, upon workup, 5-acetyl-4-hydroxy-3-[1-(p-methoxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 212°-214° C.

reactant | p-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(p-methoxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)OC)O | C16H15NO6
